US07615650B2
Into a 30-mL stainless-steel pressure reactor equipped with a stirrer, 1,4-dihydroxy-2,3-dimethylbenzene (0.91 g, 6.6 mmol), an aqueous formalin solution (0.73 g, formaldehyde 37 wt. %, methanol 7 wt. %, and water 56 wt. %), and methyl methacrylate (8.3 g, 83.0 mmol) were placed. The mixture was allowed to react at 180° C. for three hours under stirring, while the reactor was tightly closed. After cooling, the reaction mixture was analyzed, and methyl 6-hydroxy-2,7,8-trimethylchroman-2-carboxylate was found to be formed as a chroman compound. Reaction scores on the basis of 1,4-dihydroxy-2,3-dimethylbenzene were found to be as follows:

reactant | 1,4-dihydroxy-2,3-dimethylbenzene | 6.6 mmol, 0.91 g | OC1=C(C(=C(C=C1)O)C)C | C8H10O2
reactant | formalin | 0.73 g | C=O | CH2O
reactant | methyl methacrylate | 83.0 mmol, 8.3 g | C(C(=C)C)(=O)OC | C5H8O2
reactant | methyl 6-hydroxy-2,7,8-trimethylchroman-2-carboxylate | OC=1C=C2CCC(OC2=C(C1C)C)(C(=O)OC)C | C14H18O4
product | chroman | O1CCCC2=CC=CC=C12 | C9H10O
